US07544812B2
The 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester (0.011 g, 0.020 mmol) was combined with aqueous 5 N NaOH (0.2 mL) in EtOH (3 mL) and heated to reflux under N2 for 1 h. The reaction was cooled and the solvent removed in vacuo to give a residue that was acidified with aqueous 1 N HCl (2 mL). The mixture was extracted with Et2O and water, the organic layer dried (MgSO4), and the solvent removed in vacuo to afford 0.007 g (67%) 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid. HRMS (ES+) m/z exact mass calcd for C32H37N2O5 [M+1] 529.2702, found 529.2715. 1H NMR.

reactant | 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester | 0.020 mmol, 0.011 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC)(OC1=CC=CC=C1)C)=O | C34H40N2O5
reactant | NaOH | 5 N, 0.2 mL | [OH-].[Na+]
reactant | HCl | 1 N, 2 mL | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid | 0.007 g, 67% | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC)OC1=CC=CC=C1 | C32H36N2O5
